US05981533
3-[4-(N-BOC-Amino)-phenylamino]-2-cyano-3-methylmercapto-acrylonitrile
A mixture of 13.89 g (81.58 mmol) of 3,3-bis-methylmercapto-2-cyano-acrylonitrile, 17 g (81.63 mmol) of N-BOC-1,4-phenylenediamine (Fluka) and 200 ml of methanol is heated under reflux for 5 hours. Cooling to room temperature, filtering and washing the filter residue with methanol yield the title compound; m.p. 190° C. Concentration of the filtrate by evaporation and recrystallization of the residue from 50 ml of methanol yield a further batch of the title compound; m.p. 190-191° C.

reactant | 3,3-bis-methylmercapto-2-cyano-acrylonitrile | 81.58 mmol, 13.89 g | CSC(=C(C#N)C#N)SC | C6H6N2S2
reactant | N-BOC-1,4-phenylenediamine | 81.63 mmol, 17 g | C(=O)(OC(C)(C)C)NC1=CC=C(C=C1)N | C11H16N2O2
solvent | methanol | 200 ml | CO | CH4O
product | 3-[4-(N-BOC-Amino)-phenylamino]-2-cyano-3-methylmercapto-acrylonitrile | C(=O)(OC(C)(C)C)NC1=CC=C(C=C1)NC(=C(C#N)C#N)SC | C16H18N4O2S
